US08138189B2
Step 2: 4-{3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-phenoxy}-2-trifluoromethyl-benzoic acid
In analogy to Example 214, step 2, 4-{3-chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-phenoxy}-2-trifluoromethyl-benzaldehyde was oxidized with sodium chlorite to give the title compound as a colorless solid. MS (m/e, ISP neg. ion)=548.1 [M−H+].

reactant | 4-{3-chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-phenoxy}-2-trifluoromethyl-benzaldehyde | ClC=1C=C(OC2=CC(=C(C=O)C=C2)C(F)(F)F)C=CC1C(C(C(F)(F)F)(C1=CN(C(C=C1)=O)C)O)C | C24H18ClF6NO4
reactant | sodium chlorite | Cl(=O)[O-].[Na+]
product | 4-{3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-phenoxy}-2-trifluoromethyl-benzoic acid | ClC=1C=C(OC2=CC(=C(C(=O)O)C=C2)C(F)(F)F)C=CC1C(C(C(F)(F)F)(C1=CN(C(C=C1)=O)C)O)C | C24H18ClF6NO5
